US07592477B2
To a solution of tert-butyl 4-[(dodecylamino)carbonyl]benzylcarbamate (2.35 g) in DCM (30 mL) was added a HCl solution (4N in dioxane, 30 mL). The resulting mixture was stirred at rt for 1 h. Evaporation of the solvents gave 4-(aminomethyl)-N-dodecylbenzamide hydrochloride compound as a white powder (1.97 g, 98%). M+(LC/MS(ESI)): 319.4; M−(LC/MS(ESI)): 317.4. HPLC (Condition A), Rt: 4.20 min (HPLC purity: 100%). 1H NMR (DMSO-d6, 300 MHz) δ 8.52 (br s, 3H), 7.87 (d, J=7.5 Hz, 2H), 7.56 (d, J=7.5 Hz, 2H), 4.06 (br s, 2H), 3.25-3.30 (m, 2H), 1.45-1.55 (m, 2H), 1.30-1.56 (m, 18H), 0.84 (t, J=8.3 Hz, 3H).

reactant | tert-butyl 4-[(dodecylamino)carbonyl]benzylcarbamate | 2.35 g | C(CCCCCCCCCCC)NC(=O)C1=CC=C(CNC(OC(C)(C)C)=O)C=C1 | C25H42N2O3
reactant | HCl | 4N, 30 mL | Cl | ClH
solvent | DCM | 30 mL | C(Cl)Cl | CH2Cl2
product | 4-(aminomethyl)-N-dodecylbenzamide hydrochloride | 1.97 g, 98% | Cl.NCC1=CC=C(C(=O)NCCCCCCCCCCCC)C=C1 | InChI=1S/C20H34N2O.ClH/c1-2-3-4-5-6-7-8-9-10-11-16-22-20(23)19-14-12-18(17-21)13-15-19;/h12-15H,2-11,16-17,21H2,1H3,(H,22,23);1H
